### PR TITLE
[Merged by Bors] - feat(Topology/Algebra/Module/LinearMap): units in `M →L[R] M` are homeomorphisms

### PR DESCRIPTION
**Pull request by tb65536**
This PR proves that a units in `M →L[R] M` are homeomorphisms.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Topology/Algebra/Module/LinearMap.lean [hunk 1]
```diff
@@ -576,6 +576,15 @@ theorem ofNat_apply [ContinuousAdd M₁] (n : ℕ) [n.AtLeastTwo] (m : M₁) :
     (ofNat(n) : M₁ →L[R₁] M₁) m = OfNat.ofNat n • m :=
   rfl
 
+theorem isHomeomorph_of_isUnit {T : M₁ →L[R₁] M₁} (hT : IsUnit T) : IsHomeomorph T := by
+  obtain ⟨u, rfl⟩ := hT
+  let f : M₁ ≃ₜ M₁ :=
+  { toFun := u.1
+    invFun := u⁻¹.1
+    left_inv x := by rw [← mul_apply, Units.inv_mul, one_apply]
+    right_inv x := by rw [← mul_apply, Units.mul_inv, one_apply] }
```
Comment (dagurtomas) [inline Mathlib/Topology/Algebra/Module/LinearMap.lean]: This could be a separate definition, given a `u : (M₁ →L[R₁] M₁)ˣ`

File: Mathlib/Topology/Algebra/Module/LinearMap.lean [hunk 2]
```diff
@@ -576,6 +576,17 @@ theorem ofNat_apply [ContinuousAdd M₁] (n : ℕ) [n.AtLeastTwo] (m : M₁) :
     (ofNat(n) : M₁ →L[R₁] M₁) m = OfNat.ofNat n • m :=
   rfl
 
+/-- Construct a homeomorphism from an invertible continuous linear map. -/
+def homeomorph_of_unit (T : (M₁ →L[R₁] M₁)ˣ) : M₁ ≃ₜ M₁ where
```
Comment (dagurtomas) [inline Mathlib/Topology/Algebra/Module/LinearMap.lean]:
```suggestion
def homeomorphOfUnit (T : (M₁ →L[R₁] M₁)ˣ) : M₁ ≃ₜ M₁ where
```

**Review by dagurtomas — COMMENTED** [review]
Thanks

maintainer delegate

File: Mathlib/Topology/Algebra/Module/LinearMap.lean [hunk 3]
```diff
@@ -600,6 +600,17 @@ theorem ofNat_apply [ContinuousAdd M₁] (n : ℕ) [n.AtLeastTwo] (m : M₁) :
     (ofNat(n) : M₁ →L[R₁] M₁) m = OfNat.ofNat n • m :=
   rfl
 
+/-- Construct a homeomorphism from an invertible continuous linear map. -/
+def homeomorphOfUnit (T : (M₁ →L[R₁] M₁)ˣ) : M₁ ≃ₜ M₁ where
```
Comment (ocfnash) [inline Mathlib/Topology/Algebra/Module/LinearMap.lean:605]: Can we add some API, maybe even just:
```suggestion
@[simps]
def homeomorphOfUnit (T : (M₁ →L[R₁] M₁)ˣ) : M₁ ≃ₜ M₁ where
```

**Review by ocfnash — APPROVED** [review]
Thanks!

bors d+
